US06544990B2
A solution of diethyl 2-{[4-(hydroxymethyl)-2-iodoanilino]methylene}malonate (0.20 g) and acetic anhydride (0.054 mL) in acetic acid (0.24 mL) is heated at 80° C. overnight. The reaction is cooled to room temperature and poured into 50 mL of water. The resulting solid is filtered and dried to yield 0.19 g (87%) of diethyl 2-({4-[(acetyloxy)methyl]-2-iodoanilino}methylene)malonate as a white solid.

reactant | diethyl 2-{[4-(hydroxymethyl)-2-iodoanilino]methylene}malonate | 0.20 g | OCC1=CC(=C(NC=C(C(=O)OCC)C(=O)OCC)C=C1)I | C15H18INO5
reactant | acetic anhydride | 0.054 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 50 mL | O | H2O
solvent | acetic acid | 0.24 mL | C(C)(=O)O | C2H4O2
product | diethyl 2-({4-[(acetyloxy)methyl]-2-iodoanilino}methylene)malonate | 0.19 g, 87% | C(C)(=O)OCC1=CC(=C(NC=C(C(=O)OCC)C(=O)OCC)C=C1)I | C17H20INO6
